US04360467
Imidazole (2.45 g, 31.6 mmol) is added to a solution of (±) 5-hydroxy-2-methylcycloheptanone (2.03 g, 14.3 mmol) in dimethylformamide (35 ml) at 0° C. followed by t-butyldimethylsilyl chloride (2.38 g, 15.7 mmol) under nitrogen. The mixture is stirred at room temperature for 17 hours and then diluted with ether (100 ml) and washed three times with water. After drying (Na2SO4), the ether is removed in vacuo to afford (±) 5-t-butyldimethylsilyloxy-2-methylcycloheptanone (3.7 g, 100%). IR (neat)μ: 5.88 (C=O); NMR (CDCl3)δ: 0.1 (s, 6H, Si(CH3)0.93 [s, 9H, Si(CH3)2 --C(CH3)3 ], 1.1 (d, J=2--CH3), 3.6-4.2 (m, 1H, 5-H).

reactant | Imidazole | 31.6 mmol, 2.45 g | N1C=NC=C1 | C3H4N2
reactant | (±) 5-hydroxy-2-methylcycloheptanone | 14.3 mmol, 2.03 g | OC1CCC(C(CC1)=O)C | C8H14O2
reactant | t-butyldimethylsilyl chloride | 15.7 mmol, 2.38 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | ether | 100 ml | CCOCC | C4H10O
product | (±) 5-t-butyldimethylsilyloxy-2-methylcycloheptanone | 3.7 g, 100% | [Si](C)(C)(C(C)(C)C)OC1CCC(C(CC1)=O)C | C14H28O2Si
